US04024128
By the reaction of 3-isopropylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide with cyclohexylisocyanate in a manner analogous to that described in Example 1, there is obtained 1-cyclohexyl-3-[(3-isopropylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]urea. The starting material can be prepared by the reaction of 2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide with isopropylisocyanate in a manner analogous to that described in Example 8.

reactant | 3-isopropylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide | C(C)(C)NC(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)N | C14H21N3O3S
reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 1-cyclohexyl-3-[(3-isopropylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]urea | C1(CCCCC1)NC(=O)NS(=O)(=O)C1=CC2=C(CCN(CC2)C(NC(C)C)=O)C=C1 | C21H32N4O4S
